US07622469B2
3,6-Dihydro-6,6-dimethyl-4-decylamino-2-(4′-hydroxycarbonylbenzylamino)-1,3,5-triazine hydrochloride
50 ml of methanol, 100 ml of acetone and 1.6 ml of piperidine were added to 5.0 g (10.8 mmol) of N1-(4-methoxycarbonylbenzyl)-N5-decyl-biguanide dihydrochloride. The mixture was refluxed for 24 hours, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (elution with a mixture of chloroform/methanol/acetic acid (8:0.7:0.7→8:1:1)). 4.0 g of the purified product was dissolved in 60 ml of ethanol, and to the solution were added 60 ml of water and 2.4 ml of 5N aqueous sodium hydroxide. The mixture was refluxed for 2 hours, and 5 ml of concentrated hydrochloric acid was added thereto. The mixture was concentrated under reduced pressure, and extracted with chloroform. The aqueous layer was separated, and the solvent was distilled off under reduced pressure. The residue was dried well under reduced pressure, heated and extracted with methanol. The extract was filtered, and cooled. The resulting precipitates were filtered, and the solvent of the filtrate was distilled off under reduced pressure. The residue was extracted with ethanol under heating, and filtered. The solvent of the filtrate was distilled off under reduced pressure, and ether was added to the residue to obtain 3.4 g of a white yellow solid.

reactant | methanol | 50 ml | CO | CH4O
reactant | piperidine | 1.6 ml | N1CCCCC1 | C5H11N
reactant | N1-(4-methoxycarbonylbenzyl)-N5-decyl-biguanide dihydrochloride | 10.8 mmol, 5.0 g | Cl.Cl.COC(=O)C1=CC=C(CNC(=N)NC(=N)NCCCCCCCCCC)C=C1
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 3,6-Dihydro-6,6-dimethyl-4-decylamino-2-(4′-hydroxycarbonylbenzylamino)-1,3,5-triazine hydrochloride | 3.4 g | Cl.CC1(N=C(NC(=N1)NCC1=CC=C(C=C1)C(=O)O)NCCCCCCCCCC)C | InChI=1S/C23H37N5O2.ClH/c1-4-5-6-7-8-9-10-11-16-24-21-26-22(28-23(2,3)27-21)25-17-18-12-14-19(15-13-18)20(29)30;/h12-15H,4-11,16-17H2,1-3H3,(H,29,30)(H3,24,25,26,27,28);1H
